US05348955
A solution of 946 mg (4 mmole) of 98% diphenylcarbamoyl chloride in 4 ml of acetonitrile was added dropwise to a stirring solution of 406.2 mg (2 mmole) of piperazine-2-carboxylic acid dihydrochloride [E. Felder, S. Maffei, S. Pietra and D. Pitre, Helv. Chim., Acta, 43, 888 (1960)] in 4 ml of 2.5N sodium hydroxide at a temperature between 0° and 5° C. After the addition was completed, the stirring was continued for 4 hours and the solution was acidified with 2N hydrochloric acid while cooling in an ice bath. The reaction mixture was concentrated under reduced pressure and the residue was extracted with chloroform. After washing with water, the chloroform solution was dried over MgSO4 and concentrated in vacuo. The only product which solidified on cooling was triturated with isopropyl ether to give 270 mg (26%) of (±)-1,4-bis-(diphenylcarbamoyl)piperazine-2-carboxylic acid, m.p. 244°-246° C.

reactant | diphenylcarbamoyl chloride | 4 mmole, 946 mg | C1(=CC=CC=C1)N(C(=O)Cl)C1=CC=CC=C1 | C13H10ClNO
reactant | piperazine-2-carboxylic acid dihydrochloride | 2 mmole, 406.2 mg | Cl.Cl.N1C(CNCC1)C(=O)O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
solvent | sodium hydroxide | 2.5N, 4 ml | [OH-].[Na+]
product | (±)-1,4-bis-(diphenylcarbamoyl)piperazine-2-carboxylic acid | 270 mg, 26% | C1(=CC=CC=C1)N(C(=O)N1C(CN(CC1)C(N(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O)C1=CC=CC=C1 | C31H28N4O4
